Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Upper GI Bleed
 
Major Surgical or Invasive Procedure:
EGD with procedural intubation and sedation

 
History of Present Illness:
___ is a ___ year old male with a history of 
hypertension presenting with new lower chest pain and coffee 
ground emesis.

He was in his usual state of health until yesterday evening, 
when he developed a fairly rapid onset burning in his lower 
chest.  He has never had a prior similar episode.  He notes that 
the burning is severe, like a knife in the ___ his chest.  
It has not changed, and has been constant. He denies any reflux, 
dysphagia, or dyspnea.  He has not had any abdominal pain, and 
did not have nausea or emesis prior to arrival in the ED. He was 
not doing any exercise when this started.  He did recently 
return from a trip to ___, in ___. He has no known 
history of prior GI bleed and is not anticoagulated.

In the ED, initial vital signs were: 
98.1 72 150/75 18 100% RA 

Exam notable for:  Rectal exam with black stools heme positive

Labs were notable for: Hgb 16.5, WBC 10.2, BUN 36, Cr 1.3 (b/l 
1.1-1.2), Lytes and LFTs WNL

Studies performed include: CXR, which showed left basilar 
atelectasis, but no focal consolidation, pleural effusion, or 
PTX.

Patient was given:
___ 09:14 PO Aluminum-Magnesium Hydrox.-Simethicone 30 mL 
___  
___ 09:14 PO Donnatal 10 mL ___  
___ 09:14 PO Lidocaine Viscous 2% 10 mL 
___  
___ 09:29 IV Ondansetron 4 mg ___  
___ 12:00 IV Ondansetron 4 mg ___  
___ 12:50 IV Esomeprazole sodium 40 mg 
___ 

After GI cocktail in the ED, patient had an episode of nausea 
with coffee ground emesis.

Consults: GI, who took him immediately to endoscopy suite for 
EGD.

The patient developed copious coffee ground emesis on initial 
scope and was aspirating, so the EGD was terminated. He was 
urgently intubated, and BPs dropped as low as 40/20, so he 
received 2L IVF and multiple phenylephrine doses. 

Repeat EGD showed:
- Very severe esophagitis with ulceration
- A ___ tear with stigmata of recent bleeding 
(submucosal clot) at the GE junction
- Normal stomach and duodenum

As sedation wore off, BPs improved. He was extubated and sent to 
PACU. In the PACU, he was agitated, and given concern for 
delirium, received 0.5mg IV Haldol x2. Once medically 
stabilized, he was transferred to the floor for further 
management.

Upon arrival to the floor, the patient was sleeping through most 
of interview. He remained somnolent throughout encounter, but 
with repeated prompting endorsed nausea and stated that he was 
feeling thirsty.  Denied abdominal pain or emesis since arriving 
on the floor. Also denied headache, chest pain, or shortness of 
breath. Patient declined further questioning and fell back 
asleep.
 
 
Past Medical History:
- HTN
- ?Autoimmune skin condition (takes minocycline for it)
- HPV associated condyloma
- Prior HBV (?surface antigen negative)
 
Social History:
___
Family History:
Mother and father healthy.  Sister with breast cancer related to 
the BRCA gene
 
Physical Exam:
Admission Physical Exam:  
Vitals: 98.2 ___ 97% 2L
GENERAL: Sleeping throughout most of encounter. Somnolent but 
providing short responses to questioning with repeated 
prompting, then falling back asleep. No acute distress.
HEENT: Normocephalic, atraumatic. Sclera anicteric and without 
injection. Unable to assess pupil reactivity due to lack of 
patient cooperation. Moist mucous membranes, good dentition. 
Oropharynx is clear, without e/o blood.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
Breathing comfortably on 2L NC.  
ABDOMEN: Normal bowels sounds, mildly distended, non-tender to 
deep palpation in all four quadrants. No guarding or rebound.
EXTREMITIES: No cyanosis or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: Unable to perform complete neuro exam due to lack of 
patient participation. Somnolent, but following verbal commands. 
Grip strength intact bilaterally. Moving all 4 extremities.

DISCHARGE PHYSICAL EXAM:  
Vitals: 97.9 142/90 69 20 96 Ra 
General: Adult male, alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Admission labs
___ 08:55AM BLOOD WBC-10.2* RBC-5.45 Hgb-16.5 Hct-48.9 
MCV-90 MCH-30.3 MCHC-33.7 RDW-13.1 RDWSD-42.3 Plt ___
___ 08:55AM BLOOD Neuts-82.1* Lymphs-7.3* Monos-9.9 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.34* AbsLymp-0.74* 
AbsMono-1.00* AbsEos-0.02* AbsBaso-0.02
___ 08:55AM BLOOD ___ PTT-29.0 ___
___ 08:55AM BLOOD Glucose-118* UreaN-36* Creat-1.3* Na-141 
K-4.5 Cl-102 HCO3-26 AnGap-13
___ 08:55AM BLOOD ALT-36 AST-33 AlkPhos-114 TotBili-0.6
___ 08:55AM BLOOD Lipase-46
___ 08:55AM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD Calcium-8.4 Phos-2.9 Mg-1.7
___ 08:55AM BLOOD Albumin-4.3

IMAGES:    
___ ___
No free intraperitoneal air. Multiple non-dilated air-filled 
loops of small bowel, with air visible throughout colon and 
within rectum, most consistent with ileus.

CXR ___
No acute cardiopulmonary process.  No evidence of pneumothorax.

EGD ___
Impression: 
___ D esophagitis in the lower third of the esophagus 
compatible with very severe esophagitis with ulceration
___ tear
Otherwise normal EGD to third part of the duodenum 
Recommendations: 
The findings account for the symptoms
IV PPI BID
Strict NPO with aggressive IV hydration 

Discharge labs
___ 05:45AM BLOOD WBC-4.9 RBC-4.67 Hgb-14.0 Hct-41.6 MCV-89 
MCH-30.0 MCHC-33.7 RDW-13.1 RDWSD-42.7 Plt ___
___ 05:45AM BLOOD Glucose-95 UreaN-19 Creat-1.2 Na-141 
K-4.2 Cl-103 HCO3-23 AnGap-15
 
Brief Hospital Course:
Summary
___ with history of HTN, who presented with sharp lower chest 
pain and coffee ground emesis. He underwent EGD showing severe 
esophagitis and ulcerations and ___ tear at 
gastroesophageal junction. He briefly required intubation for 
airway compromise ___ emesis, also briefly requiring pressors 
for ___ hypotension. He was extubated with stable 
BPs and did not require any transfusions. He was discharged home 
in good condition with a ppi BID. 

# Severe esophagitis with ulceration
# ___ Tear
# Hypovolemic shock secondary to upper GI bleed, now resolved
Patient presented to ED with coffee ground emesis, s/p EGD 
showing ___ tear at GE junction with stigmata of 
recent bleeding and severe esophagitis with ulceration. Unclear 
etiology for the esophagitis. Patient has been taking 
minocycline, which is known to be associated with pill 
esophagitis. No further vomiting since procedure. Also briefly 
requiring pressors for ___ fluid-refractory 
hypotension, which resolved. We held minocycline and recommend 
he followup with his dermatologist. He was discharged on 
omeprazole 40mg BID and should undergo repeat endoscopy in ___ 
months. 

# Agitation, concerning for delirium
Patient with significant agitation in the PACU upon weaning of 
sedation, requiring a total of 1mg Haldol in the PACU. 
Concerning for medication-related delirium given recent sedation 
for EGD/intubation. He improved over the next ___ hours and was 
at his baseline at time of discharge. 

# HTN: 
Continued home losartan. 

Transitional issues
- Will follow with PCP and should arrange outpatient EGD in ___ 
months. 
- Started omeprazole 40mg BID. 
- Hold minocycline and recommend following with his outpatient 
Dermatologist for alternative options in the short term. 
- Consider outpatient H pylori testing given travel history. 

#CODE: full (presumed)
#CONTACT: Name of health care proxy: ___
Phone number: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Minocycline 100 mg PO Q12H 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Valsartan 320 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Acute GI bleed secondary to severe erosive esophagitis

Secondary
HTN
Delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr. ___,

You came to ___ with bleeding from your esophagus. We started 
medication to prevent this happening in the future. 

It was a pleasure taking care of you, best of luck. 
Your ___ medical team

 
Followup Instructions:
___